US08071766B2
E. 2-Amino-7-(4-fluoro-2-(2-fluoropyridin-3-yl)phenyl)-4-methyl-7,8-dihydroquinazolin-5(6H)-one (1H)
To a 10 mL recovery flask was added 2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydroquinazolin-5(6H)-one (33 mg, 0.0942 mmol, 1.0 eq.), 2-fluoropyridine-3-boronic acid (27 mg, 0.188 mmol, 2.0 eq.), DME (2 mL), potassium carbonate (2.0M aq., 94 μL, 0.188 mmol, 2.0 eq.), and palladium tetrakis triphenylphosphine (5 mg, 0.00471 mmol, 0.05 eq.). The reaction was refluxed overnight whereupon LC/MS analysis judged the reaction to be complete. The reaction mixture was filtered through Celite and concentrated to a residue. The residue was purified via preparatory-HPLC to give the product white solid (30 mg, 96%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.67 (dd, J=3.54, 1.77 Hz, 1H) 2.89 (br. s., 1H) 3.06 (t, J=12.51 Hz, 2H) 3.18 (br. s., 1H) 7.18 (dd, J=9.60, 2.78 Hz, 1H) 7.31-7.53 (m, 4H) 7.72 (dd, J=8.84, 5.81 Hz, 1H) 7.98 (ddd, J=9.79, 7.52, 1.89 Hz, 1H) 8.28 (d, J=4.80 Hz, 1H). ESI-MS: m/z 367.3 (M+H)+. ESI-MS: m/z 367.3 (M+H)+.

reactant | 2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydroquinazolin-5(6H)-one | 0.0942 mmol, 33 mg, 1.0 eq. | NC1=NC=2CC(CC(C2C(=N1)C)=O)C1=C(C=C(C=C1)F)Br | C15H13BrFN3O
reactant | 2-fluoropyridine-3-boronic acid | 0.188 mmol, 27 mg, 2.0 eq. | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium carbonate | 0.188 mmol, 2.0M, 94 μL, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 2-Amino-7-(4-fluoro-2-(2-fluoropyridin-3-yl)phenyl)-4-methyl-7,8-dihydroquinazolin-5(6H)-one | 30 mg, 96% | NC1=NC=2CC(CC(C2C(=N1)C)=O)C1=C(C=C(C=C1)F)C=1C(=NC=CC1)F | C20H16F2N4O
